US07994337B2
A solution of 2-bromo-5-(3-(2-fluorophenyl)-1-methyl-1H-pyrazol-4-yl)thiazolo[5,4-b]pyridine (0.0294 g, 0.0755 mmol, 1.0 eq.) and n-propylamine (0.1 mL, 1.22 mmol, 16.1 eq.) in 1,4-dioxane (1.5 mL) was heated at 75° C. for 3 h. After cooling to room temperature, the reaction mixture was diluted with CH2Cl2 and washed with saturated aqueous NaHCO3 and brine, dried over Na2SO4, filtered, and concentrated in vacuo to afford 5-(3-(2-fluorophenyl)-1-methyl-1H-pyrazol-4-yl)-N-propylthiazolo[5,4-b]pyridine-2-amine as a light tan solid (0.0270 g, 97% yield). LC/MS (MH)= 368.16.

reactant | 2-bromo-5-(3-(2-fluorophenyl)-1-methyl-1H-pyrazol-4-yl)thiazolo[5,4-b]pyridine | 0.0755 mmol, 0.0294 g, 1.0 eq. | BrC=1SC2=NC(=CC=C2N1)C=1C(=NN(C1)C)C1=C(C=CC=C1)F | C16H10BrFN4S
reactant | n-propylamine | 1.22 mmol, 0.1 mL, 16.1 eq. | C(CC)N | C3H9N
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-(3-(2-fluorophenyl)-1-methyl-1H-pyrazol-4-yl)-N-propylthiazolo[5,4-b]pyridine-2-amine | 0.0270 g, 97% yield | FC1=C(C=CC=C1)C1=NN(C=C1C1=CC=C2C(=N1)SC(=N2)NCCC)C | C19H18FN5S
